US09145393B2
To a solution of 3-bromo-5-chloro-2-methoxypyridine (5.00 g, 33.7 mmol) in toluene (100 mL) was added tert-butyl 3-aminoazetidine-1-carboxylate (5.8 g, 18.5 mmol), Xantphos (650 mg, 1.12 mmol), Cs2CO3 (14.6 g, 44.9 mmol) and Pd2(dba)3 (514 mg, 0.562 mmol). The reaction mixture was stirred at 60° C. under nitrogen for 4 days. After cooling to RT, the reaction mixture was filtered, washed with ethyl acetate (100 mL), the organic layer washed with water (60 mL), brine (60 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by flash chromatography (ethyl acetate/hexane) to obtain 5.6 g of tert-butyl 3-((5-chloro-2-methoxypyridin-3-yl)amino)azetidine-1-carboxylate as a white-yellow oil (80%): 1H NMR (400 MHz, CDCl3) δ 7.39 (d, J=2.2 Hz, 1H), 6.36 (d, J=2.2 Hz, 1H), 4.52 (d, J=6.5 Hz, 1H), 4.24 (dd, J=8.9, 7.1 Hz, 2H), 4.05 (m, 1H), 3.89 (s, 3H), 3.70 (dd, J=9.1, 4.8 Hz, 2H), 1.37 (s, 9H); MS (ES) m/z 314 (M+H).

reactant | 3-bromo-5-chloro-2-methoxypyridine | 33.7 mmol, 5.00 g | BrC=1C(=NC=C(C1)Cl)OC | C6H5BrClNO
reactant | tert-butyl 3-aminoazetidine-1-carboxylate | 18.5 mmol, 5.8 g | NC1CN(C1)C(=O)OC(C)(C)C | C8H16N2O2
reactant | Cs2CO3 | 44.9 mmol, 14.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.562 mmol, 514 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Xantphos | 1.12 mmol, 650 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | tert-butyl 3-((5-chloro-2-methoxypyridin-3-yl)amino)azetidine-1-carboxylate | 5.6 g, 80% | ClC=1C=C(C(=NC1)OC)NC1CN(C1)C(=O)OC(C)(C)C | C14H20ClN3O3
